US07459263B2
Synthesis of butyl 4′-(trifluoromethyl)biphenyl-4-carboxylate (CS-16)
A mixture of butyl 4-iodobenzoate (3.5 g, 11 mmol), 4-trifluoromethylbenzene boronic acid (2.30 g, 12 mmol), potassium carbonate (4.77 g, 35 mmol), toluene (40 mL), and water (20 mL) was deaerated by sparging with nitrogen for 10 min. Tetrakis(triphenylphosphine)palladium(0) (0.27 g, 0.23 mmol) was added, and the mixture was heated at reflux for 3 h and then cooled to ambient. The organic layer was separated, washed with brine, dried (MgSO4), passed through short column of silica gel, and concentrated to deposit a gold solid. The product was purified by recrystallization from aqueous isopropanol to provide 1.03 g (28% of theory) of a white powder. 1H NMR (CDCl3): δ 1.00 (t, 3H), 1.5 (m, 2H), 1.8 (m, 2H), 4.36 (t, 2H), 7.66 (d, 2H), 7.72 (s, 4H), 8.14 (d, 2H).

reactant | butyl 4-iodobenzoate | 11 mmol, 3.5 g | IC1=CC=C(C(=O)OCCCC)C=C1 | C11H13IO2
reactant | 4-trifluoromethylbenzene boronic acid | 12 mmol, 2.30 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | potassium carbonate | 35 mmol, 4.77 g | C([O-])([O-])=O.[K+].[K+]
reactant | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.23 mmol, 0.27 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 20 mL | O | H2O
product | butyl 4′-(trifluoromethyl)biphenyl-4-carboxylate | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OCCCC)(F)F | C18H17F3O2
